US07282499B2
Thionyl cloride (4 mL) is slowly added at room temperature over a solution of 2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)ethanol (516 mg, 2.13 mmol) in 25 mL of toluene. The reaction mixture is heated at 90° C. during 2 hours. The solvent is eliminated at reduced pressure. The crude is diluted in ethyl acetate and washed twice with a NaHCO3 solution. The solvent is next evaporated at reduced pressure, to obtain 4-(2-chloroethyl)-4,5,6,7-tetrahydro-1-phenyl-1H-indazole (423 mg, 1.62 mmol, 76%, oil).

reactant | Thionyl cloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)ethanol | 2.13 mmol, 516 mg | C1(=CC=CC=C1)N1N=CC=2C(CCCC12)CCO | C15H18N2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-chloroethyl)-4,5,6,7-tetrahydro-1-phenyl-1H-indazole | 1.62 mmol, 423 mg, 76% | ClCCC1C=2C=NN(C2CCC1)C1=CC=CC=C1 | C15H17ClN2
